US07626056B2
A solution of dimethylamine (5 mL of 2M in THF) was added to ethyl 2-chloro-4-methyl-6-(trifluoromethyl)nicotinate (500 mg, 1.9 mmol) and stirred in a sealed tube for 24 hours. The mixture was partitioned between ethyl acetate (30 mL) and water (30 mL). The organic phase was dried over magnesium sulphate, filtered and evaporated to give ethyl 2-(dimethylamino)-4-methyl-6-(trifluoromethyl)nicotinate as a colourless oil (450 mg): 1H NMR (500 MHz, CDCl3): δ 6.79 (1H, s), 4.39 (2H, q, J 7.1), 3.05 (6H, s), 2.32 (3H, s), 1.39 (3H, t, J 7.1).

reactant | dimethylamine | 2M, 5 mL | CNC | C2H7N
reactant | ethyl 2-chloro-4-methyl-6-(trifluoromethyl)nicotinate | 1.9 mmol, 500 mg | ClC1=C(C(=O)OCC)C(=CC(=N1)C(F)(F)F)C | C10H9ClF3NO2
product | ethyl 2-(dimethylamino)-4-methyl-6-(trifluoromethyl)nicotinate | 450 mg | CN(C1=C(C(=O)OCC)C(=CC(=N1)C(F)(F)F)C)C | C12H15F3N2O2
